US08026236B2
G: 4-(3-Hydroxypropoxy)-3-(trifluoromethyl)-phenylboronic acid
4-(3-(Tetrahydro-2H-pyran-2-yloxy)propoxy)-3-(trifluoromethyl)phenylboronic acid (30.6 g) was added to hydrochloric acid (1M in MeOH) and the mixture was heated at 50° C. for 40 minutes. Solvent and HCl were then removed under reduced pressure and residue (20.3 g) was used for next step without further purification. Proton NMR indicates 2 sets of product peaks assumed to be monomer and dimer or trimer. 1H NMR (CDCl3 (0.7 ml)+CD3OD (0.2 ml)) δ: 7.7-8.0 (2xd and 2xs, 2H), 7.0 (2xd, 1H), 4.22 (t, 2H), 3.86 (t, 2H), 3.48 (tt, 2H).

reactant | 4-(3-(Tetrahydro-2H-pyran-2-yloxy)propoxy)-3-(trifluoromethyl)phenylboronic acid | 30.6 g | O1C(CCCC1)OCCCOC1=C(C=C(C=C1)B(O)O)C(F)(F)F | C15H20BF3O5
reactant | hydrochloric acid | 1M | Cl | ClH
product | 4-(3-Hydroxypropoxy)-3-(trifluoromethyl)-phenylboronic acid | OCCCOC1=C(C=C(C=C1)B(O)O)C(F)(F)F | C10H12BF3O4
